US20010000513A1
In a manner similar to Example 4, Step (b), 4-oxo-4-(4′-trifluoromethyl-biphenyl-4-yl)-butyric acid, methyl ester (1.34 g, 0.00398 mol) was refluxed in 6 M aqueous hydrochloric acid (24 mL) to give 1.27 g of 4-oxo-4-(4′-trifluoromethyl-biphenyl-4-yl)-butyric acid as an 80% pure solid. A portion (0.059 g) of the material was purified by chromatography on silica gel (7 g, 230-400 mesh), eluting with dichloromethane (15×10 mL); dichloromethane-methanol (15:1; 16×10 mL) to give 0.0476 g of pure 4-oxo-4-(4′-trifluoromethyl-biphenyl-4-yl)-butyric acid as an off-white solid; mp 172-174° C.

reactant | 4-oxo-4-(4′-trifluoromethyl-biphenyl-4-yl)-butyric acid, methyl ester | 0.00398 mol, 1.34 g | O=C(CCC(=O)OC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C18H15F3O3
solvent | hydrochloric acid | 6 M, 24 mL | Cl | ClH
product | 4-oxo-4-(4′-trifluoromethyl-biphenyl-4-yl)-butyric acid | 1.27 g | O=C(CCC(=O)O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C17H13F3O3
